US04762844
3. Methyl 3-amino-2,5-dichloro-4-methylbenzoate
30 g of 3-amino-2,5-dichloro-4-methylbenzoic acid are initially introduced into 140 ml of MeOH. HCl gas is now passed in for 20 minutes and the mixture is then boiled under reflux for a further 5 hours. After cooling, the mixture is poured into water and rendered alkaline with sodium carbonate. The ester which has precipitated is isolated and dried. Yield: 30.8 g, melting point: 53°-55°.

reactant | 3-amino-2,5-dichloro-4-methylbenzoic acid | 30 g | NC=1C(=C(C(=O)O)C=C(C1C)Cl)Cl | C8H7Cl2NO2
reactant | MeOH | 140 ml | CO | CH4O
reactant | HCl | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | Methyl 3-amino-2,5-dichloro-4-methylbenzoate | NC=1C(=C(C(=O)OC)C=C(C1C)Cl)Cl | C9H9Cl2NO2
